US07560546B2
5-Bromo-3-({4-[2-(dimethylamino)ethyl]-5-oxo-1,4-diazepan-1-yl}sulfonyl)-1H-indole-2-carboxamide
Following the procedures described in Steps D and E of Example 1, replacing in Step D ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate with ethyl 5-bromo-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate, and morpholine with 4-[2-(dimethylamino)ethyl]-1,4-diazepan-5-one oxalate, the title compound was obtained as a white solid. HRMS (ES) exact mass calculated for C18H25BrN5O4S (M+H+): 486.0805. Found 486.0801.

reactant | ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | ClC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13Cl2NO6S2
reactant | ethyl 5-bromo-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | BrC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13BrClNO6S2
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | 4-[2-(dimethylamino)ethyl]-1,4-diazepan-5-one oxalate | C(C(=O)O)(=O)O.CN(CCN1CCNCCC1=O)C
product | 5-Bromo-3-({4-[2-(dimethylamino)ethyl]-5-oxo-1,4-diazepan-1-yl}sulfonyl)-1H-indole-2-carboxamide | BrC=1C=C2C(=C(NC2=CC1)C(=O)N)S(=O)(=O)N1CCN(C(CC1)=O)CCN(C)C | C18H24BrN5O4S
